*****************************************************************
* NXP BUK9Y38-100E
*
* Polarity N-Channel
* Ratings 100V/3.800000E-002OHMS/30.0775086847716A
*
* Date Created Tue Feb 05 08:15:19 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y38-100E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0292404054481272 TC=0.00564952661354343,3.34876550346319E-05
RBD 9 4 0.00229307701442335 TC=0.00564952661354343,3.34876550346319E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 1.8e-09
RG 1 2 1.74663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	2120.44
+ -16	2119.21
+ -10	2114.16
+ -5	2099.27
+ -4	2090.42
+ -3	2068.1
+ -2	1923.9
+ -1	1373.44
+ -0.5	1037.95
+ -0.2	786.97
+ -0.1	779.646
+ 0	581.63194
+ 0.1	417.47564
+ 0.2	416.88524
+ 0.5	337.76908
+ 1	281.1668
+ 2	211.26588
+ 3	186.81196
+ 4	171.2198
+ 5	158.6498
+ 6	148.83456
+ 8	134.60848
+ 10	124.577
+ 12	116.92544
+ 15	108.15032
+ 16	105.59511
+ 20	97.65096
+ 25	90.11784
+ 30	84.34496
+ 50	70.09969




.MODEL MINT NMOS(Vto=2.01547930966928 Kp=100 Nfs=320000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=4.6653646300678e-13
+ N=1 M=0.57 VJ=0.51 Fc=0.5 Cjo=4.1801424e-10 Tt=3.132792e-08)

.ENDS

